US07157487B2
(Step 5) Synthesis of methyl 2-(2-methylphenylamino)-6-benzoxazolylacetate
In ethanol (20 ml) was dissolved methyl 3-hydroxy-4-nitrophenylacetate (1.00 g, 4.74 mmol), followed by the addition of 5% palladium/carbon (500 mg). Under stirring at room temperature, the mixture was subjected to catalytic hydrogenation for 15 hours. After filtration of the reaction mixture through Celite to remove the insoluble matter, 2-tolyl isothiocyanate (765 μl, 5.69 mmol) was added to the filtrate while stirring at room temperature. The reaction mixture was stirred for 15 hours. After addition of mercuric oxide (yellow) (1.72 g, 7.94 mmol), the mixture was heated under reflux for 5 hours under stirring. The reaction mixture was then cooled to room temperature. After filtration of the reaction mixture through Celite under reduced pressure, the solvent was distilled off under reduced pressure from the filtrate. The residue was purified by chromatography on a silica gel column, whereby from chloroform-ethyl acetate (10:1) eluate fractions, the title compound (1.18 g, 84%) was obtained as a yellow oil.

reactant | methyl 3-hydroxy-4-nitrophenylacetate | 4.74 mmol, 1.00 g | OC=1C=C(C=CC1[N+](=O)[O-])CC(=O)OC | C9H9NO5
reactant | 2-tolyl isothiocyanate | 5.69 mmol, 765 μl | C=1(C(=CC=CC1)N=C=S)C | C8H7NS
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 500 mg | [Pd] | Pd
product | methyl 2-(2-methylphenylamino)-6-benzoxazolylacetate | 1.18 g, 84% | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)OC | C17H16N2O3
